US07091357B2
To a stirred solution of (S)-nicotine (0.47 g, 2.9 mmol) in AcOH (8 ml) was added cis-1-bromo-oct-3-ene (1.34 g, 7.00 mmol). The mixture was heated at reflux for 3 days. AcOH was evaporated and the residue was recrystallized in ethyl acetate-CHCl3 to afford (S)-cis-3-(1-methyl-pyrrolidin-2-yl)-1-oct-3-enyl-pyridinium bromide hydrobromide salt (NONB-3c) (0.62 g, 49%) as hygroscopic white crystals: 1H NMR (300 MHz, CDCl3) δ 12.19 (1H, s), 10.71 (1H, s), 9.74 (1H, d, J=7.8 Hz), 8.74 (1H, d, J=5.7 Hz), 8.16 (1H, dd, J=7.8, 5.7 Hz), 5.79 (1H, m), 5.58 (1H, m), 5.40 (1H, m), 4.82 (2H, m), 4.01 (1H, m), 3.03 (1H, m), 2.94 (3H, d, J=4.2 Hz), 2.20–2.90 (5H, m), 1.87 (1H, m), 1.70 (2H, m), 1.00–1.25 (4H, m), 0.79 (3H, t, J=7.2 Hz); 13C NMR (75 MHz, CDCl3) δ 146.96, 146.29, 145.29, 136.33, 134.12, 128.37, 121.81, 67.09, 62.01, 55.92, 38.53, 31.94, 31.41, 29.34, 26.94, 22.18, 21.72, 14.04; Anal. Calcd for C18H30Br2N2.0.4H2O: C, 48.97; H, 7.03; N, 6.35. Found: C, 49.00; H, 7.36; N, 6.39.

reactant | (S)-nicotine | 2.9 mmol, 0.47 g | N1=CC=CC(=C1)[C@H]1N(C)CCC1 | C10H14N2
reactant | cis-1-bromo-oct-3-ene | 7.00 mmol, 1.34 g | BrCC\C=C/CCCC | C8H15Br
solvent | AcOH | 8 ml | CC(=O)O | C2H4O2
product | (S)-cis-3-(1-methyl-pyrrolidin-2-yl)-1-oct-3-enyl-pyridinium bromide hydrobromide salt | 0.62 g, 49% | Br.[Br-].CN1[C@@H](CCC1)C=1C=[N+](C=CC1)CC\C=C/CCCC | InChI=1S/C18H29N2.2BrH/c1-3-4-5-6-7-8-14-20-15-9-11-17(16-20)18-12-10-13-19(18)2;;/h6-7,9,11,15-16,18H,3-5,8,10,12-14H2,1-2H3;2*1H/q+1;;/p-1/b7-6-;;/t18-;;/m0../s1
